US07863450B2
A solution of 4-amino-1-benzylpiperidine-4-carboxylic acid (5 g, 21 mmol) in methanol (90 ml) is cooled down to 0° C. and treated dropwise with thionyl chloride. The mixture is then brought to reflux for 5 hours and stirred at 20° C. overnight. The mixture is concentrated under reduced pressure, the residue is taken up in toluene and concentrated again to give 6.14 g of 4-amino-1-benzylpiperidine-4-carboxylic acid hydrochloride ax58 as a hygroscopic white solid.

reactant | 4-amino-1-benzylpiperidine-4-carboxylic acid | 21 mmol, 5 g | NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)O | C13H18N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 90 ml | CO | CH4O
product | 4-amino-1-benzylpiperidine-4-carboxylic acid hydrochloride | 6.14 g, Yield: 100% | Cl.NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)O | InChI=1S/C13H18N2O2.ClH/c14-13(12(16)17)6-8-15(9-7-13)10-11-4-2-1-3-5-11;/h1-5H,6-10,14H2,(H,16,17);1H
